US05852028
Ethyl 2-hydrazino-4-methylpyrimidine-5-carboxylate
The title compound was prepared as described in Example 18, but employing a solution of ethyl 2-chloro-4-methylpyrimidine-5-carboxylate (0.08 g, 0.39 mmol) and hydrazine (0.06 g, 2.0 mmol) in THF (7.8 mL) resulting in a 93% yielded (0.07 g); 1HNMR (CDCl3) δ 8.86 (s, 1H), 6.64 (bs, 1H), 4.33 (q, 2H), 2.70 (s, 3H), 1.38 (t, 3H).

reactant | ethyl 2-chloro-4-methylpyrimidine-5-carboxylate | 0.39 mmol, 0.08 g | ClC1=NC=C(C(=N1)C)C(=O)OCC | C8H9ClN2O2
reactant | hydrazine | 2.0 mmol, 0.06 g | NN | H4N2
solvent | THF | 7.8 mL | C1CCOC1 | C4H8O
product | Ethyl 2-hydrazino-4-methylpyrimidine-5-carboxylate | N(N)C1=NC=C(C(=N1)C)C(=O)OCC | C8H12N4O2
